US04298529
7-[2-Methoxyimino-3,3-ethylenedioxy-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 1 g.), 70% aqueous hydroperchloric acid (0.2 ml.) and acetic acid (2 ml.) were treated in a similar manner to that of Example 10 (4) to give 7-[2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 0.6 g.).

reactant | 7-[2-Methoxyimino-3,3-ethylenedioxy-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 1 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C1(CBr)OCCO1 | C14H18BrN3O8S
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 7-[2-methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 0.6 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)=O | C12H14BrN3O7S
